US07932272B2
Quinoline-6-carbaldehyde
n-Butyl lithium (19.2 mL; 1.5M hexane solution) was added dropwise to a solution of 6-bromoquinoline (5 g, 24.0 mmol) in diethyl ether (20 mL) that had been cooled to −70° C. under nitrogen atmosphere, a solution of N,N-dimethylformamide (3.7 mL, 48.0 mmol) in diethyl ether was further added, and the solution was stirred at −70° C. for 2 hours. The reaction solution was allowed to room temperature, then, an aqueous solution of saturated ammonium chloride was added, the solution was extracted with ethyl acetate and dried over anhydrous magnesium sulfate. The solvent was evaporated, the residue was purified by silica gel column chromatography (hexane:ethyl acetate), and the title compound (320 mg, 8.5%) was obtained as a yellow oil.

reactant | n-Butyl lithium | 1.5M, 19.2 mL | C(CCC)[Li]
reactant | 6-bromoquinoline | 24.0 mmol, 5 g | BrC=1C=C2C=CC=NC2=CC1 | C9H6BrN
reactant | N,N-dimethylformamide | 48.0 mmol, 3.7 mL | CN(C=O)C | C3H7NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | Quinoline-6-carbaldehyde | 320 mg, 8.5% | N1=CC=CC2=CC(=CC=C12)C=O | C10H7NO
